US04058611
A suspension of 5-(pyrazin-2-yl)-1,2-dithiole-3-thione (31.85 g.) in methanol (1,400 cc.) is heated at a temperature of about 65° C. Hydroxylamine hydrochloride (24 g.), followed by sodium acetate (35 g.) dissolved in water (75 cc.), are then added. The reaction mixture is then heated for 3 hours at a temperature of about 65° C. After cooling to a temperature of about 20° C., the insoluble product is filtered off and is then washed with methanol (4 × 100 cc.) and with carbon disulphide (4 × 100 cc.). The product is dissolved in dimethylformamide (300 cc.) at 100° C. and is then reprecipitated by adding water (600 cc.). After filtration and drying, 3-hydroxyimino-5-(pyrazin-2-yl)-1,2-dithiole (23 g.) melting at 262° C. is obtained.

reactant | 5-(pyrazin-2-yl)-1,2-dithiole-3-thione | 31.85 g | N1=C(C=NC=C1)C1=CC(SS1)=S | C7H4N2S3
reactant | Hydroxylamine hydrochloride | 24 g | Cl.NO
reactant | sodium acetate | 35 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 1,400 cc | CO | CH4O
solvent | water | 75 cc | O | H2O
product | 3-hydroxyimino-5-(pyrazin-2-yl)-1,2-dithiole | 23 g | ON=C1SSC(=C1)C1=NC=CN=C1 | C7H5N3OS2
